US08309751B2
2-Propionylpent-4-enenitrile
In a 20 l jacketed reactor fitted with heating/cooling circuit and reflux condenser, 3500 g of potassium tert-butoxide were initially charged, and 6316 g of tetrahydrofuran was added. At a temperature of at most 10° C., a mixture of 1200 g of pentenenitrile and 1651 g of ethyl propionate was then pumped in over a period of 75 min. Stirring was continued at 8 to 10° C. for 3 h and then at 15° C. overnight. The mixture was then adjusted to pH of 3.8 by pumping in 6316 g of 20% strength hydrochloric acid, with the temperature increasing to 48° C. 2400 ml of water and 4000 ml of o-xylene were then added. The aqueous (lower) phase was then removed, and the organic phase was washed two more times with in each case 2400 ml of water. What remained were 14650 g of organic phase. Concentration on a rotary evaporator at 60° C. and 10 mbar gave 1873 g of an amber product having a content of 87.4% a/a (GC), which was reacted further as such.

reactant | potassium tert-butoxide | 3500 g | CC(C)([O-])C.[K+]
reactant | pentenenitrile | 1200 g | C(C=CCC)#N | C5H7N
reactant | ethyl propionate | 1651 g | C(CC)(=O)OCC | C5H10O2
reactant | hydrochloric acid | Cl | ClH
solvent | o-xylene | 4000 ml | CC=1C=CC=CC1C | C8H10
solvent | water | 2400 ml | O | H2O
solvent | tetrahydrofuran | 6316 g | O1CCCC1 | C4H8O
product | 2-Propionylpent-4-enenitrile | 1873 g | C(CC)(=O)C(C#N)CC=C | C8H11NO
